US06911443B2
The mixture of 5-chloro-7-(3,4-dimethoxyphenyl) imidazo[1,2-c]pyrimidine (57.94 mg, 0.2 mmol), 1-(4-fluorophenyl)piperazine.2HCl (55.69 mg, 0.22 mmol), and diisopropylethylamine (85.31 mg, 0.66 mmol) in 3 ml of 2-propanol was stirred at 90° C. for 3 h, and cooled to room temperature. To the obtained mixture, 3 ml of ice water was added, the produced white solid was collected by filtration, and dried to give the pure product (56 mg, 64.6%) of 7-(3,4-Dimethoxyphenyl)-5-[4-(4-fluorophenyl)piperazin-1-yl]-imidazo[-1,2-c]pyrimidine.

reactant | 5-chloro-7-(3,4-dimethoxyphenyl) imidazo[1,2-c]pyrimidine | 0.2 mmol, 57.94 mg | ClC1=NC(=CC=2N1C=CN2)C2=CC(=C(C=C2)OC)OC | C14H12ClN3O2
reactant | 1-(4-fluorophenyl)piperazine | FC1=CC=C(C=C1)N1CCNCC1 | C10H13FN2
reactant | diisopropylethylamine | 0.66 mmol, 85.31 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 2-propanol | 3 ml | CC(C)O | C3H8O
product | 7-(3,4-Dimethoxyphenyl)-5-[4-(4-fluorophenyl)piperazin-1-yl]-imidazo[-1,2-c]pyrimidine | 56 mg, 64.6% | COC=1C=C(C=CC1OC)C1=CC=2N(C(=N1)N1CCN(CC1)C1=CC=C(C=C1)F)C=CN2 | C24H24FN5O2
